US06492403B1
A stirred suspension of 1 g (3.9 mmol) of 3,5-bis(trifluoromethyl)acetophenone (Lancaster, Windham, N.H., USA) in dry methanol (20 mL) and 1 g (15 mmol, 2.6 eq) of poly(4-vinyl pyridinium tribromide)(Aldrich, Milwaukee, Wis. , USA) was protected from moisture with dry nitrogen, and heated at reflux for 70 min. The polymer was filtered from the cooled solution and washed with methanol and twice with dichloromethane. The solvents were removed in vacuo to give 1-[3,5-bis(trifluoromethyl)phenyl]-2-bromoethan-1-one (1.2 g, 92%). 1H-NMR (DMSO-d6; 300 MHz) δ8.43 (m, 2H), 8.12 (m, 1H), 4.46 (s, 3H).

reactant | 3,5-bis(trifluoromethyl)acetophenone | 3.9 mmol, 1 g | CC(=O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C10H6F6O
reactant | poly(4-vinyl pyridinium tribromide) | 15 mmol, 1 g, 2.6 eq | C=CC1=CC=[NH+]C=C1.[Br-].[Br-].[Br-]
solvent | methanol | 20 mL | CO | CH4O
product | 1-[3,5-bis(trifluoromethyl)phenyl]-2-bromoethan-1-one | 1.2 g, 92% | FC(C=1C=C(C=C(C1)C(F)(F)F)C(CBr)=O)(F)F | C10H5BrF6O
